US08685980B2
7-Cyclopentyl-2-(5-hydroxymethyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (4.49 g, 11.8 mmol) is dissolved in dichloromethane (175 ml) and methanol (75 ml). Activated MnO2 85% (51.1 g, 503 mmol) is added in 4 portions over period of 48 h with continual stirring. After a further 16 hours the mixture is filtered. The filtrate is heated to 38° C. and more MnO2 (24 g, 236 mmol) is added as 2 batches over 5 hours. After stirring for a further 12 hours, the mixture is cooled and filtered. Concentration in vacuo gave a solid which is triturated with MeOH (10 ml) to give 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (3.8 g, 85%). MS (ESI) m/z 379.2 (M+H)+ (method B).

reactant | 7-Cyclopentyl-2-(5-hydroxymethyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 11.8 mmol, 4.49 g | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CO)N1C1CCCC1)C | C20H24N6O2
solvent | dichloromethane | 175 ml | ClCCl | CH2Cl2
solvent | methanol | 75 ml | CO | CH4O
catalyst | MnO2 | 503 mmol, 51.1 g | O=[Mn]=O
catalyst | MnO2 | 236 mmol, 24 g | O=[Mn]=O
product | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 3.8 g, 85% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
